US05998470
a) methyl 3-benzyloxybenzoate
To a suspension of NaH (0.395 g, 9.87 mmol, 60% in mineral oil) in DMF (20 mL) was added methyl 3-hydroxybenzoate (1.0 g, 6.58 mmol). After stirring for 15 min at room temperature, benzyl bromide (1.1 g, 6.58 mmol) was added. After stirring at room temperature for 3 h, the solution was partitioned between ethyl acetate and water. The organic layer was washed with water (2×75 mL), saturated aqueous sodium bicarbonate, and brine, then dried (MgSO4), filtered and concentrated to yield an off-white solid (1.013 g, 4.2 mmol). 1H NMR (400 MHz, CDCl3)δ 7.67 (m, 2H), 7.48-7.34 (m, 6H), 7.19 (m, 1H), 5.12 (s, 2H), 3.95 (s, 3H).

reactant | NaH | 9.87 mmol, 0.395 g | [H-].[Na+]
reactant | methyl 3-hydroxybenzoate | 6.58 mmol, 1.0 g | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
reactant | benzyl bromide | 6.58 mmol, 1.1 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | methyl 3-benzyloxybenzoate | 4.2 mmol, 1.013 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C=CC1 | C15H14O3
